US05753664
3-Methyl-2-[4-(4-hydroxybenzoyl)benzyloxy]-4H-pyrido[1,2-a]pyrimidin-4-one
A solution of 2-hydroxy-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (3.158 g), 4-(4-t-butyldimethylsilyloxybenzoyl)benzyl bromide (12.24 g) and potassium carbonate (5.07 g) in DMF (50 ml) was stirred at room temperature for 24 hours. This reaction mixture was concentrated and the residue was purified by silica gel column chromatography (dichloromethane: ethyl acetate =1:2) and recrystallized from chloroform-methanol-ethyl acetate to provide the title compound as colorless solid (325 mg).

reactant | 2-hydroxy-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 3.158 g | OC=1N=C2N(C(C1C)=O)C=CC=C2 | C9H8N2O2
reactant | 4-(4-t-butyldimethylsilyloxybenzoyl)benzyl bromide | 12.24 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C20H25BrO2Si
reactant | potassium carbonate | 5.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-Methyl-2-[4-(4-hydroxybenzoyl)benzyloxy]-4H-pyrido[1,2-a]pyrimidin-4-one | 325 mg | CC1=C(N=C2N(C1=O)C=CC=C2)OCC2=CC=C(C=C2)C(C2=CC=C(C=C2)O)=O | C23H18N2O4
